US07273877B2
4-(4-Ethyl-2-fluoro-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (0.50 g, 1.72 mmol) was reacted with pentafluorophenyl trifluoroacetate (0.92 mL, 5.20 mmol) in the presence of pyridine (0.45 mL) in DMF (15 mL). The solution was allowed to stir at room temperature for 15 hours and then treated with 2-Amino-ethanol (0.50 mL, 8.60 mmol) as in example 75 to afford the 4-(4-Ethyl-2-fluoro-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (2-hydroxy-ethyl)-amide (0.47 g, 82%). 1H NMR [400 MHz, (CD3)2SO] δ 9.82 (s, 1H), 8.35 (t, J=5.4 Hz, 1H), 8.20 (s, 1H), 7.27 (t, J=8.4 Hz, 1H), 7.12 (d, J=11.8 Hz, 1H), 7.06 (d, J=7.7 Hz, 1H), 5.38 (s, 1H), 4.72 (t, J=5.1 Hz, 1 H, OH), 3.44 (t, J=11.5, 6.2 Hz, 2H), 3.35 (s, 3H), 3.22 (t, J=12.8, 6.8 Hz, 2H), 2.58 (q, J=7.1 Hz, 2H), 1.14 (t, J=7.1 Hz, 3H). (APCI+) calcd for C17H20FN3O3 333.36 (M+1), found 334.1.

reactant | 4-(4-Ethyl-2-fluoro-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | 1.72 mmol, 0.50 g | C(C)C1=CC(=C(C=C1)NC=1C(=CN(C(C1)=O)C)C(=O)O)F | C15H15FN2O3
reactant | pentafluorophenyl trifluoroacetate | 5.20 mmol, 0.92 mL | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | pyridine | 0.45 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-Amino-ethanol | 8.60 mmol, 0.50 mL | NCCO | C2H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(4-Ethyl-2-fluoro-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (2-hydroxy-ethyl)-amide | 0.47 g, 82% | OCCNC(=O)C1=CN(C(C=C1NC1=C(C=C(C=C1)CC)F)=O)C | C17H20FN3O3
